US09059411B2
Step 1: Synthesis of 3-(2-Methylphenyl)-4-(2,6-dimethylphenyl)-5-phenyl-4H-1,2,4-triazole (abbreviation: Hmpptz-dmp)
First, 12.6 g (43.3 mmol) of N-[1-chloro-1-(2-methylphenyl)methylidene]-N′-[1-chloro(1-phenyl)methylidene]hydrazine, 15.7 g (134.5 mmol) of 2,6-dimethylaniline, and 100 mL of N,N-dimethylaniline were put into a 500 mL recovery flask and heated and stirred at 120° C. for 20 hours. After reaction for a predetermined time, this reaction solution was slowly added to 200 mL of 1N hydrochloric acid. Dichloromethane was added to this solution and a target substance was extracted to an organic layer. The obtained organic layer was washed with water and an aqueous solution of sodium hydrogen carbonate, and was dried with magnesium sulfate. The magnesium sulfate was removed by gravity filtration, and the obtained filtrate was concentrated to give a black liquid. This liquid was purified by silica gel column chromatography. A mixed solvent of ethyl acetate and hexane in a ratio of 1:5 was used as a developing solvent. The obtained fraction was concentrated to give a white solid. This solid was recrystallized from ethyl acetate to give 4.5 g of a white solid of Hmpptz-dmp in a yield of 31%. A synthetic scheme of Step 1 is shown below.

reactant | N-[1-chloro-1-(2-methylphenyl)methylidene]-N′-[1-chloro(1-phenyl)methylidene]hydrazine | 43.3 mmol, 12.6 g | ClC(C1=C(C=CC=C1)C)=NN=C(C1=CC=CC=C1)Cl | C15H12Cl2N2
reactant | 2,6-dimethylaniline | 134.5 mmol, 15.7 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | N,N-dimethylaniline | 100 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 3-(2-Methylphenyl)-4-(2,6-dimethylphenyl)-5-phenyl-4H-1,2,4-triazole | 4.5 g, yield of 31% | CC1=C(C=CC=C1)C1=NN=C(N1C1=C(C=CC=C1C)C)C1=CC=CC=C1 | C23H21N3
